US04170704
To a mixture of 9.5 g (0.1 mole) 3-hydroxypyridine, 5.2 g (0.1 mole) sodium methylate and 150 ml N,N-dimethylformamide, there was added 12.0 g (0.1 mole) propargyl bromide at room temperature over a two hour period. Most of the solvent was removed under reduced pressure. The residue was taken up with 200 ml methylene chloride and 100 ml water, the layers were separated and the methylene chloride evaporated to give 4.5 g 3-(2-propynyloxy)pyridine, yield 34%.

reactant | 3-hydroxypyridine | 0.1 mole, 9.5 g | OC=1C=NC=CC1 | C5H5NO
reactant | sodium methylate | 0.1 mole, 5.2 g | C[O-].[Na+]
reactant | propargyl bromide | 0.1 mole, 12.0 g | C(C#C)Br | C3H3Br
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 3-(2-propynyloxy)pyridine | 4.5 g, yield 34% | C(C#C)OC=1C=NC=CC1 | C8H7NO
